US07534788B2
Step 5: 6-Hydroxy-3-isopropyl-benzofuran-2-carboxylic acid ethyl ester
The above prepared 3-isopropyl-6-methoxy-benzofuran-2-carboxylic acid ethyl ester (2.52 g, 10 mmol) was dissolved in 65 mL of CH2Cl2, cooled to 0° C., and treated with BBr3 (19.2 mL of 1M solution in CH2Cl2, 2 eq.). After 1 h at 0° C. and one additional at ambient temperature, the reaction mixture was carefully poured onto crashed ice, twofold extracted with AcOEt, washed with water, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=8/2) afforded 0.930 g of the title compound as purple crystals.

reactant | 3-isopropyl-6-methoxy-benzofuran-2-carboxylic acid ethyl ester | 10 mmol, 2.52 g | C(C)OC(=O)C=1OC2=C(C1C(C)C)C=CC(=C2)OC | C15H18O4
reactant | BBr3 | 1M, 19.2 mL, 2 eq. | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-3-isopropyl-benzofuran-2-carboxylic acid ethyl ester | 0.930 g | C(C)OC(=O)C=1OC2=C(C1C(C)C)C=CC(=C2)O | C14H16O4
